US07618959B2
Preparation of {2-[4-(6-methoxy[1,5]naphthyridin-4-yl)phenyl]ethyl}carbamic acid tert-butyl ester
To a stirred solution of 1,1,1-trifluoromethanesulfonic acid 6-methoxy[1,5]naphthyridin-4-yl ester (1.0 g, 3.24 mmole) in dry dioxane (50 mL) at RT was added bis(pinacolato)diboron (1.07 g, 4.22 mmole), potassium acetate (0.95 g, 9.72 mmole), 1,1-bis(diphenylphosphino)ferrocene (0.09 g, 0.16 mmole) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complexed with dichloromethane (1:1) (0.13 g, 0.16 mmole). The reaction contents were heated to 80° C. for 24 h under nitrogen gas and then 1, 1-bis(diphenylphosphino)ferrocene (0.09 g, 0.16 mmole), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complexed with dichloromethane (1:1) (0.13 g, 0.16 mmole), potassium carbonate (1.34 g, 9.72 mmole) and [2-(4-bromophenyl)ethyl]carbamic acid tert-butyl ester (0.97 g, 3.24 mmole) were added to the reaction pot. After 24 h of vigorous stirring at 80° C., the reaction contents were filtered through a scinter-glass funnel containing a bed of celite (EtOAc). The filtrate was concentrated under vacuum and purified on silica (EtOAc) to afford the title compound (0.76 g, 62%) as a tan solid: LC-MS (ES) m/e 380 (M+H)+.

reactant | 1,1,1-trifluoromethanesulfonic acid 6-methoxy[1,5]naphthyridin-4-yl ester | 3.24 mmole, 1.0 g | COC=1N=C2C(=CC=NC2=CC1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
reactant | bis(pinacolato)diboron | 4.22 mmole, 1.07 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.72 mmole, 0.95 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.16 mmole, 0.13 g | ClCCl | CH2Cl2
reactant | dichloromethane | 0.16 mmole, 0.13 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 9.72 mmole, 1.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | [2-(4-bromophenyl)ethyl]carbamic acid tert-butyl ester | 3.24 mmole, 0.97 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)Br)=O | C13H18BrNO2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.16 mmole, 0.09 g | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1, 1-bis(diphenylphosphino)ferrocene | 0.16 mmole, 0.09 g | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | {2-[4-(6-methoxy[1,5]naphthyridin-4-yl)phenyl]ethyl}carbamic acid tert-butyl ester | 0.76 g, 62% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)C1=CC=NC2=CC=C(N=C12)OC)=O | C22H25N3O3
